US05364844
2(R)-(4-Methoxybenzyl)-3-(morpholinocarbonyl)propionic acid
A solution of 1.62 g (4.08 mmoles) of benzyl 2(R)-(4-methoxybenzyl)-3-(morpholinocarbonyl)propionate (prepared as described in Preparation 14) in 50 ml of ethanol was stirred at room temperature for 4 hours in the presence of 160 mg of 10% w/w palladium-on-charcoal and under an atmosphere of hydrogen. At the end of this time, the catalyst was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure, to give the title compound as a colorless oily substance.

reactant | benzyl 2(R)-(4-methoxybenzyl)-3-(morpholinocarbonyl)propionate | 4.08 mmoles, 1.62 g | COC1=CC=C(C[C@@H](C(=O)OCC2=CC=CC=C2)CC(=O)N2CCOCC2)C=C1 | C23H27NO5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2(R)-(4-Methoxybenzyl)-3-(morpholinocarbonyl)propionic acid | COC1=CC=C(C[C@@H](C(=O)O)CC(=O)N2CCOCC2)C=C1 | C16H21NO5
